US09145411B2
Step 3: tert-Butyl (5-(7-(4-(cyclopropylcarbamoyl)phenyl)-4-morpholinopyrido[3,2-d]-pyrimidin-2-yl)pyrimidin-2-yl)carbamate
To a 50 mL sealed tube, 4-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)-N-cyclo-propylbenzamide (0.15 g, 0.00036 mol), (2-((tert-butoxycarbonyl)amino)pyrimidin-5-yl)boronic acid (0.113 g, 0.00047), potassium phosphate (0.155 g, 0.00072 mol), DMF (10 mL) and water (2 mL) were added. The reaction mixture was degassed with N2 for 5-10 minutes. To the same reaction mixture, Pd(PPh3)4 (0.022 g, 0.000018 mol) was added and degassed with N2 for 5-10 minutes. The reaction mixture was stirred at 95° C. for 1 hour. The reaction mass was cooled to room temperature and added ice cold water. A precipitate was obtained and the solid was collected by filtration. The solid was dissolved in chloroform, dried over anhydrous sodium sulfate and evaporated under reduced pressure to provide the crude product. The crude product was purified by flash column chromatography (2% methanol in chloroform) to provide the title compound (0.1 g, 48%). 1H NMR (300 MHz, DMSO-d6): δ 10.41 (br s, 1H), 9.47 (s, 1H), 9.19 (d, J=1.8 Hz, 1H), 6.59 (d, J=4.2 Hz, 1H), 8.51 (d, J=1.8 Hz, 1H), 7.98-8.08 (m, 4H), 4.57 (br s, 4H), 3.83 (s, 4H), 2.88-2.89 (m, 1H), 1.48 (s, 9H), 0.73 (d, J=5.4 Hz, 2H), 0.61 (d, J=3.0 Hz, 2H): LC-MS (ESI): Calculated mass: 568.2; Observed mass [M+H]+: 569.2. (RT=1.57 min).

reactant | 4-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)-N-cyclo-propylbenzamide | 0.00036 mol, 0.15 g | ClC=1N=C(C2=C(N1)C=C(C=N2)C2=CC=C(C(=O)NC1CC1)C=C2)N2CCOCC2 | C21H20ClN5O2
reactant | (2-((tert-butoxycarbonyl)amino)pyrimidin-5-yl)boronic acid | 0.113 g | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)B(O)O | C9H14BN3O4
reactant | potassium phosphate | 0.00072 mol, 0.155 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.000018 mol, 0.022 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | tert-Butyl (5-(7-(4-(cyclopropylcarbamoyl)phenyl)-4-morpholinopyrido[3,2-d]-pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.1 g, 48% | C1(CC1)NC(=O)C1=CC=C(C=C1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C30H32N8O4
